US08975254B2
a) 2-(Chloromethyl)oxazole-4-carboxylic acid
Methyl 2-(chloromethyl)-1,3-oxazole-4-carboxylate (1.0 g, 5.70 mmol) was dissolved in THF/methanol mixture (9:1) and 1M lithium hydroxide (11.39 ml, 11.39 mmol) was added slowly. The reaction mixture was stirred at RT for 1 h, diluted with water and pH was adjusted to 2. The reaction mixture was extracted three times with ethyl acetate. Ethyl acetate phases were combined, dried and evaporated to dryness to yield the title compound (94%). 1H-NMR (400 MHz; DMSO3): δ 4.93 (s, 2H), 8.80 (s, 1H), 13.20 (bs, 1H).

reactant | Methyl 2-(chloromethyl)-1,3-oxazole-4-carboxylate | 5.70 mmol, 1.0 g | ClCC=1OC=C(N1)C(=O)OC | C6H6ClNO3
reactant | lithium hydroxide | 11.39 mmol, 1M, 11.39 ml | [OH-].[Li+]
solvent | THF methanol | C1CCOC1.CO
solvent | water | O | H2O
product | 2-(Chloromethyl)oxazole-4-carboxylic acid | 94% | ClCC=1OC=C(N1)C(=O)O | C5H4ClNO3
